US08084449B2
1,1-Dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methylidene}-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate (94.68 g, 269 mmol) in nitrogen purged DMF (700 mL) was added potassium acetate (52.8 g, 538 mmol) and bis(pinacolato)diboron (82 g, 323 mmol). The resulting reaction mixture was flushed with nitrogen and then put under vacuum alternatively five times. PdCl2(dppf)-CH2Cl2-adduct (10.97 g, 13.44 mmol) was then added and the reaction mixture heated to 100° C. for 2 h. The reaction mixture was then cooled to room temperature and was filtered through celite washing the pad well with DMF. The filtrate was then concentrated in vacuo and the resulting residue dissolved in water and ethyl acetate. The organic layer was separated, filtered through celite, then washed with brine, re-filtered through celite, dried over magnesium sulfate, filtered, then concentrated in vacuo. The resulting residue was dissolved in 100 mL of DCM, loaded onto a 1,500 g ISCO™ silica column and purified on a 0-25% EtOAc in cyclohexane gradient but the compound eluted at the beginning of the run due to use of DCM. The appropriate fractions were combined and concentrated to yield a viscous oil which was then dissolved in cyclohexane (100 mL) and loaded onto a 1,500 g ISCO™ silica column and purified on a 0-25% EtOAc in cyclohexane gradient. This gave 92.48 g (86%) of a pale green solid. HPLC showed 14.74% of boronic acid (boronate hydrolyses partially on HPLC column) with a retention time of 2.33 min and 82.71% of the boronate with a retention time of 3.12 min. LC-MS m/z 343.95 (M+H)+, 1.59 min (ret time) [above named product minus tBu group].

reactant | 1,1-dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate | 269 mmol, 94.68 g | BrC=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C | C17H22BrNO2
reactant | DMF | 700 mL | CN(C)C=O | C3H7NO
reactant | potassium acetate | 538 mmol, 52.8 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 323 mmol, 82 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | cyclohexane | 100 mL | C1CCCCC1 | C6H12
catalyst | PdCl2(dppf) CH2Cl2 | 13.44 mmol, 10.97 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1,1-Dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methylidene}-1-piperidinecarboxylate | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C)C | C23H34BNO4
